US07799814B2
Triethylamine (0.65 ml; 4.69 mmol; 1.49 eq.) is added to a suspension of (2′-amino-4′-methyl-4,5′-bi-1,3-thiazol-2-yl)acetonitrile (1 000 mg; 3.15 mmol; 1 eq.) and CDI (1 372.3 mg; 8.46 mmol; 2.68 eq.) in dry DCM (65 ml). DMF (4 ml) is added and the mixture is heated at 45° C. for one night. The reaction is cooled down to rt. The resulting precipitate is filtered and washed with Et2O, affording N-[2-(cyanomethyl)-4′-methyl-4,5′-bi-1,3-thiazol-2′-yl]-1H-imidazole-1-carboxamide, which is used in the next step without further purification (822.8 mg; 79%).

reactant | Triethylamine | 4.69 mmol, 0.65 ml, 1.49 eq. | C(C)N(CC)CC | C6H15N
reactant | (2′-amino-4′-methyl-4,5′-bi-1,3-thiazol-2-yl)acetonitrile | 3.15 mmol, 1 eq. | NC=1SC(=C(N1)C)C=1N=C(SC1)CC#N | C9H8N4S2
reactant | CDI | 8.46 mmol, 372.3 mg, 2.68 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DCM | 65 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(cyanomethyl)-4′-methyl-4,5′-bi-1,3-thiazol-2′-yl]-1H-imidazole-1-carboxamide | C(#N)CC=1SC=C(N1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C | C13H10N6OS2
